US07790756B2
In NMP (15 mL) was placed 3-amino-4-chlorophenol (1.70 g, 11.8 mmol) and potassium t-butoxide (1.40 g, 12.4 mmol) and the mixture was stirred overnight at RT. The dark solution was treated with the 3,5-difluoropyridine (2.73 g, 23.7 mmol) and powdered potassium carbonate (818 mg, 5.92 mmol) and the mixture was then warmed to 80° C. and stirred for 24 h. The resulting black mixture was cooled to RT, diluted with brine (100 mL) and extracted with ethyl acetate (3×50 mL). The combined ethyl acetate extracts were washed with saturated sodium bicarbonate (50 mL), water (50 mL) and brine (50 mL), dried (Na2SO4), concentrated in vacuo and purified via column chromatography to yield 2-chloro-5-(5-fluoropyridin-3-yloxy)benzenamine as a thick oil which was used without further purification. 1H-NMR (DMSO-d6): δ 5.57 (br s, 2H), 6.26-6.30 (dd, 1H), 6.50 (s, 1H), 7.19-7.22 (m, 1H), 7.45-7.50 (m, 1H), 8.26 (s, 1H), 8.39 (s, 1H). MS (ESI) m/z: 239.0 (M+H+).

reactant | 3-amino-4-chlorophenol | 11.8 mmol, 1.70 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | potassium t-butoxide | 12.4 mmol, 1.40 g | CC(C)([O-])C.[K+]
reactant | 3,5-difluoropyridine | 23.7 mmol, 2.73 g | FC=1C=NC=C(C1)F | C5H3F2N
reactant | potassium carbonate | 5.92 mmol, 818 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 2-chloro-5-(5-fluoropyridin-3-yloxy)benzenamine | ClC1=C(C=C(C=C1)OC=1C=NC=C(C1)F)N | C11H8ClFN2O
